US07423159B2
A mixture of 2-(4-nitrophenyl)ethanethioamide (7.0 g), 2-chloro-cyclohexanone (7.28 g) and tert-butanol (100 mL) was heated under reflux for 3 days. The reaction mixture was concentrated, and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-(4-nitrobenzyl)-4,5,6,7-tetrahydro-1,3-benzothiazole as pale-brown crystals (6.58 g, yield 66%) from a fraction eluted with hexane-ethyl acetate (3:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 118-119° C.

reactant | 2-(4-nitrophenyl)ethanethioamide | 7.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(N)=S | C8H8N2O2S
reactant | 2-chloro-cyclohexanone | 7.28 g | ClC1C(CCCC1)=O | C6H9ClO
solvent | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | 2-(4-nitrobenzyl)-4,5,6,7-tetrahydro-1,3-benzothiazole | 6.58 g, yield 66% | [N+](=O)([O-])C1=CC=C(CC=2SC3=C(N2)CCCC3)C=C1 | C14H14N2O2S
